US03994890
By the procedure similar to that described in Example 1, 3-phenyl-5-chloroindazole (4.57 g) and dimethylaminoethyl chloride hydrochloride (4.32 g) were treated to obtain 3.5 g of 1-dimethylaminoethyl-3-phenyl-5-chloroindazole hydrochloride (m.p. 200°-201° C).

reactant | 3-phenyl-5-chloroindazole | 4.57 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)Cl | C13H9ClN2
reactant | dimethylaminoethyl chloride hydrochloride | 4.32 g | Cl.CN(C)CCCl
product | 1-dimethylaminoethyl-3-phenyl-5-chloroindazole hydrochloride | 3.5 g | Cl.CN(C(C)C1=C2C(=NNC2=CC=C1Cl)C1=CC=CC=C1)C | InChI=1S/C17H18ClN3.ClH/c1-11(21(2)3)15-13(18)9-10-14-16(15)17(20-19-14)12-7-5-4-6-8-12;/h4-11H,1-3H3,(H,19,20);1H
